US08202881B2
To a vial containing 1,5-dimethyl-1H-pyrazol-3-amine (13.60 mg, 0.122 mmol), Pd2(dba)3 (4.67 mg, 5.10 μmol), Xantphos (5.90 mg, 10.20 μmol), and cesium carbonate (100 mg, 0.306 mmol) was added N,N-dicyclopropyl-6-ethyl-4-iodo-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide (45.8 mg, 0.102 mmol) in DME (1020 μL). The reaction mixture was sparged with argon for 5 min, the vial was capped, and the reaction mixture was heated at 90° C. 1 h. The reaction mixture was diluted with dichloromethane and vacuum filtered through Celite. The filtrate was concentrated in vacuo. The crude residue was purified via flash column chromatography using an ISCO 12 g column eluting with 1-10% MeOH/CH2Cl2). N,N-Dicyclopropyl-4-(1,5-dimethyl-1H-pyrazol-3-ylamino)-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide (14 mg, 31.7% yield) was isolated as an off-white solid.

reactant | 1,5-dimethyl-1H-pyrazol-3-amine | 0.122 mmol, 13.60 mg | CN1N=C(C=C1C)N | C5H9N3
reactant | Xantphos | 10.20 μmol, 5.90 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.306 mmol, 100 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dicyclopropyl-6-ethyl-4-iodo-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide | 0.102 mmol, 45.8 mg | C1(CC1)N(C(=O)C1=CC=2C(=NC(=C3C2N(C=N3)C)I)N1CC)C1CC1 | C18H20IN5O
solvent | DME | 1020 μL | COCCOC | C4H10O2
catalyst | Pd2(dba)3 | 5.10 μmol, 4.67 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N,N-Dicyclopropyl-4-(1,5-dimethyl-1H-pyrazol-3-ylamino)-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide | 14 mg, 31.7% yield | C1(CC1)N(C(=O)C1=CC=2C(=NC(=C3C2N(C=N3)C)NC3=NN(C(=C3)C)C)N1CC)C1CC1 | C23H28N8O
